Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
This is a ___ year old female with PMHx G6PD, HTN, GERD, and 
recurrent pneumothoraces ___ endometriosis s/p recent 
pleurodesis, who is presenting with lower extremity edema. She 
reports that for the past three days, she has noted a change in 
her voice while conversing. She believes that this is because 
she becomes short of breath while she is talking. She noted 
bilateral leg swelling this morning which prompted her to come 
into the ED. She also notes PND, denies orthopnea. She snores at 
night. Denies any chest pain or palpitations.  
Of note, Ms. ___ was transferred to ___ from ___ on 
___ for definitive surgical management of her recurrent 
right sided pneumothoraces. She was taken to the OR and was 
found to have a diaphragm that was covered in tissue consistent 
with endometriosis, which was confirmed endometriosis by biopsy. 
She underwent pleurodesis at this time.  
In the ED, initial vitals were: 97.4 104 164/81 19 100% RA  
- Labs were significant for: Na 140 K 4.1 Cl 105 CO2 21 BUN 10 
Cr 0.6  
- proBNP: 33, D-Dimer: 6245, Trop-T: <0.01  
- WBC 7.9 Hgb 10.7 Hct 34.6 Plt 328  
- UA with mod leuks, 13 WBCs, few bacteria  
- Imaging revealed:  
- CTA chest: No pulmonary embolism or acute aortic process.  
Mild interval increase in right pleural effusion and compressive 
lower lobe atelectasis. Top normal heart size with dilated main 
pulmonary artery - please correlate for pulmonary hypertension.  

- Bilateral LENIS: No evidence of deep venous thrombosis in the 
right or left lower extremity veins.  
- CXR: Persistent small right pleural effusion with associated 
compress the right lower lung atelectasis, difficult to exclude 
a superimposed pneumonia at the right lung base.  
- EKG: sinus rhythm, rate 99, normal axis, normal intervals, TWI 
avF c/p prior  
- The patient was given: Tylenol and Oxycodone  
- Vitals prior to transfer were: 75 117/60 20 100% RA  
Upon arrival to the floor, patient reports that she feels well 
and the swelling in her legs has improved a little.  
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias.
 
Past Medical History:
PAST MEDICAL HISTORY:
1. Hypertension
2. G6PD deficiency
3. GERD/gastritis
4. Endometriosis
5. Recurrent right pneumothorax
6. B/L hip brusitis
7. Gastritis (remote)
PSH
1. s/p Partial hysterectomy
2. s/p umbilical hernia repair with mesh
 
Social History:
___
Family History:
Mother DM, BOOP (alive and well)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.9 116/65 77 18 98% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. Some flank pain around 
prior surgical sites that are c/d/i.  
GU: No foley  
Ext: Trace pitting edema in bilateral LEs. Warm, well perfused, 
2+ pulses, no clubbing, cyanosis  

DISCHARGE PHYSICAL EXAM:
Vitals: 98.9, 116/65, 77, 18, 98% on RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: JVP at 1inch above clavicle at 45 deg angle 
Lungs: decreased breath sounds to ___ of right posterior lung 
field, left CTA b/l   
CV: RRR, nl S1, prominent S2, no murmurs/rubs/gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: WWP, trace ___ edema, symmetric, no tenderness to palpation  

Neuro: CN ___ grossly intact 
 
Pertinent Results:
ADMISSION LABS:
___ 04:18PM BLOOD WBC-7.9 RBC-3.44* Hgb-10.7* Hct-34.6 
MCV-101* MCH-31.1 MCHC-30.9* RDW-12.5 RDWSD-45.5 Plt ___
___ 04:18PM BLOOD Neuts-74.4* Lymphs-17.8* Monos-6.2 
Eos-1.0 Baso-0.3 Im ___ AbsNeut-5.89 AbsLymp-1.41 
AbsMono-0.49 AbsEos-0.08 AbsBaso-0.02
___ 04:09PM BLOOD ___ PTT-29.7 ___
___ 04:18PM BLOOD Glucose-103* UreaN-10 Creat-0.6 Na-140 
K-4.1 Cl-105 HCO3-21* AnGap-18
___ 07:18AM BLOOD CK(CPK)-59
___ 04:09PM BLOOD cTropnT-<0.01
___ 04:18PM BLOOD proBNP-33
___ 04:09PM BLOOD D-Dimer-6245*

DISCHARGE LABS
___ 07:18AM BLOOD WBC-6.5 RBC-2.98* Hgb-9.2* Hct-29.4* 
MCV-99* MCH-30.9 MCHC-31.3* RDW-12.7 RDWSD-45.3 Plt ___
___ 07:18AM BLOOD Glucose-84 UreaN-10 Creat-0.5 Na-140 
K-4.0 Cl-105 HCO3-27 AnGap-12
___ 07:18AM BLOOD Calcium-8.9 Phos-3.9# Mg-2.4
___ 07:18AM BLOOD CK-MB-<1 cTropnT-<0.01

IMAGING/STUDIES:
CXR ___
Persistent small right pleural effusion with associated compress 
the right 
lower lung atelectasis, difficult to exclude a superimposed 
pneumonia at the right lung base. 

___ ___
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

CTA ___
1. No pulmonary embolism or acute aortic process. 
2. Mild interval increase in right pleural effusion and 
compressive lower lobe atelectasis 
3. Top normal heart size with dilated main pulmonary artery - 
please correlate for pulmonary hypertension. 

MICROBIOLOGY: N/A
 
Brief Hospital Course:
___ year old female with PMHx G6PD, HTN, GERD, and recurrent 
pneumothoraces ___ endometriosis s/p recent pleurodesis, who is 
presenting with dyspnea on exertion found to have atelectasis 
and possible pulmonary hypertension.  
  
# Dyspnea: Patient presented with 3 days of worsening dyspnea on 
exertion. She was evaluated with CXR which showed no evidence of 
recurrent pneumothorax. She was evaluated with CTA which showed 
compressive atelectasis and slightly increased right sided 
pleural effusion as well as some evidence of pulmonary 
hypertension. The patient's atelectasis was thought to be due to 
splinting from post-operative pain from the patient's recent 
pleurodesis. The possible pulmonary hypertension visualized on 
CTA may also be contributing to her symptoms (see below). ACS 
was thought to be less likely given the absence of ECG changes 
and negative troponins x2. CHF was also thought to be less 
likely given BNP in ___ on presentation. The patient did not 
report cough or fevers/chills to suggest PNA. The patient was 
treated with her home pain regimen and with incentive spirometry 
with improvement in her symptoms. Pt will f/u with pulmonology 
and PCP for consideration of TTE after discharge for further 
evaluation of pulmonary HTN (see below). Pt should f/u with 
thoracic surgery for further management in post-operative 
period. Pt was discharged on her home pain regimen. 

# ___ edema: patient reported lower extremity edema on admission. 
She was evaluated with b/l ___ US which showed no evidence of 
DVT. The patient's ___ edema was thought to be due to poor venous 
return in the setting of decreased ambulation post-operatively. 
The patient was encouraged to continue pain control regimen and 
continue ambulation after discharge.  

# Pulmonary HTN: Pt was found to have evidence of pulmonary 
hypertension on CTA. This was thought to be caused by the 
patient's recurrent pneumothoraces due to thoracic 
endometriosis. Though her most recent presentation occurred 
relatively recently, per her history she may have had pulmonary 
issues for many years as she has previously been evaluated with 
TTE at ___ for chest pain and shortness of breath several years 
ago. The patient should f/u with PCP and pulmonology for 
consideration of repeat outpatient TTE for further work-up of 
pulmonary hypertension. ___ also consider further testing for 
other autoimmune etiologies of pulmonary HTN, as the patient 
noted she does have a family history of rheumatoid arthitis. ___ 
also consider sleep study as outpatient if concern for OSA. 

# Surgical site pain: the patient reported pain at surgical 
site. This area was found to be clean and dry without erythema 
or purulence. The patient was continued on home oxycdone regimen 
as well as ondansetron and scopolamine patch for management on 
of nausea associated with oxycodone. 

# Hypertension: continued Amlodipine 10 mg PO DAILY 
 
# GERD/gastritis: Continued Pantoprazole 20 mg PO Q24H  

# Endometriosis: Continued norethindrone 0.35 mg oral DAILY. The 
patient should follow up with ob/gyn as outpatient for further 
management of endometriosis. Consider continuing hormonal 
suppressive therapy for ___ months given thoracic endometriosis 
to decrease risk of recurrence. 
  
# Sciatica: Continue Gabapentin 100 mg PO/NG Q8H:PRN pain 
 
Transitional Issues
- Continue incentive spirometer, goal use 10x/hour
- f/u with pulmonology for further management of thoracic 
endometriosis and consideration of TTE as outpatient for w/u of 
pulmonary hypertension
- f/u with thoracic surgery for post-operative management
- f/u with ob/gyn for further management of endometriosis, 
consider continuation of hormonal suppressive therapy for ___ 
months following pleurodesis to prevent recurrence of 
endometriosis in thoracic cavity 
- Please obtain repeat CBC as outpatient as patient was noted to 
have macrocytic anemia during hospitalization. Please pursue 
anemia workup if found to remain anemic. 
- Code Status: Full Code.
- ___ (aunt) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. ___ (norethindrone (contraceptive)) 0.35 mg oral DAILY 
3. Gabapentin 100 mg PO Q8H:PRN pain 
4. Loratadine 10 mg PO DAILY 
5. Pantoprazole 20 mg PO Q24H 
6. Acetaminophen 650 mg PO Q6H 
7. Docusate Sodium 100 mg PO BID 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
9. Senna 8.6 mg PO BID 
10. Scopolamine Patch 1 PTCH TD ONCE 
11. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Amlodipine 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Gabapentin 100 mg PO Q8H:PRN pain 
5. Loratadine 10 mg PO DAILY 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
8. Pantoprazole 20 mg PO Q24H 
9. Scopolamine Patch 1 PTCH TD ONCE 
10. Senna 8.6 mg PO BID 
11. ___ (norethindrone (contraceptive)) 0.35 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
- Dyspnea thought to be secondary to atelectasis but possibly 
from pulmonary hypertension.
- Lower extremity edema.
- Anemia

SECONDARY DIAGNOSIS
===================
- Thoracic endometriosis. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

Thank you for allowing us to participate in your care at ___! 
You were admitted to the hospital with shortness of breath and 
leg swelling. We believe this occurred because you were not able 
to take deep breaths after your recent procedure and you were 
not able to move around as easily. We evaluated you with a CT 
scan of your chest which showed there was some increased 
pressure in the blood vessel that connects your heart to your 
lungs, called pulmonary hypertension. This may be because of all 
the problems you have had with your lungs recently. We also 
evaluated you with an ultrasound of your legs which showed no 
evidence of blood clot. 

After discharge, you should follow up with a pulmonologist for 
further evaluation of your possible pulmonary hypertension. You 
should follow up with your surgeon who will continue to monitor 
you after your procedure. You should follow up with your ob/gyn 
for management of your endometriosis. Please continue to use the 
incentive spirometer to help improve your breathing. 

Please discuss with your primary care physician or your 
pulmonologist the need for an ultrasound of your heart 
(echocardiogram) to assess for possible pulmonary hypertension.

Please have a repeat blood count checked at your next primary 
care appointment for monitoring after your procedure. You were 
noted to have anemia during hospitalization.  

It was a pleasure taking care of you during your 
hospitalization! We wish you all the best!

Sincerely, Your ___ Care Team
 
Followup Instructions:
___